US06479425B1
Preparation of Poly(t-butyl acrylate-ethylene)
The composition of the copolymers was determined by 13C-NMR in CDCl3. The acrylate ester content was calculated by averaging the integral values for the acrylate carbonyl and quaternary carbon of t-butyl group. Ethylene content is then obtained by correcting the total aliphatic integral for the t-butyl acrylate integration. Furthermore, acrylate-centered traits were quantified by integration of three clusters of methine resonances: EAE: 46.5, EAA/AAE: 44.2, AAA: 42.2 ppm. The copolymer was found to have 76 mol % t-butyl acrylate with EAE:EAA/AAE:AAA=8:38:53.

reactant | t-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | acrylate | C(C=C)(=O)[O-]
product | t-butyl acrylate ethylene | C(C=C)(=O)OC(C)(C)C.C=C | InChI=1S/C7H12O2.C2H4/c1-5-6(8)9-7(2,3)4;1-2/h5H,1H2,2-4H3;1-2H2
